US09371317B2
To a solution of tert-butyl(1-((4-amino-2,2-dioxido-1H-benzo[c][1,2,6]thiadiazin-5-yl)oxy)-2-methylpropan-2-yl-carbamate (114 g, 296 mmol) in ethanol (1 L), cooled to 0° C., was added HCl (4.0 M in dioxane, 370 mL, 1480 mmol). The mixture was stirred at 0° C. for 3 hours under nitrogen, and then allowed to warm to room temperature. The mixture was concentrated and the residue was suspended in diethyl ether (2 L) and refluxed for 1 hour. The mixture was cooled to room temperature and the solid was collected by vacuum filtration and dried under high vacuum to afford 1-((4-amino-2,2-dioxido-1H-benzo[c][1,2,6]thiadiazin-5-yl)oxy)-2-methylpropan-2-aminium chloride as a white solid (94 g, 100%). 1H NMR (DMSO-d6), 400 MHz: δ 1.37 (s, 6H), 4.12 (s, 2H), 6.70 (d, J=8.0 Hz, 1H), 6.85 (d, J=8.0 Hz, 1H), 7.48 (t, J=8.0 Hz, 1H), 7.65 (s, 1H), 8.43 (br s, 3H), 10.9 (br s, 1H). MS 285 (MH+).

reactant | 1-((4-amino-2,2-dioxido-1H-benzo[c][1,2,6]thiadiazin-5-yl)oxy)-2-methylpropan-2-yl-carbamate | 296 mmol, 114 g | NC=1C2=C(NS(N1)(=O)=O)C=CC=C2OCC(C)(C)NC([O-])=O
reactant | HCl | 1480 mmol, 4.0 M, 370 mL | Cl | ClH
solvent | ethanol | 1 L | C(C)O | C2H6O
product | 1-((4-amino-2,2-dioxido-1H-benzo[c][1,2,6]thiadiazin-5-yl)oxy)-2-methylpropan-2-aminium chloride | 94 g, 100% | [Cl-].NC=1C2=C(NS(N1)(=O)=O)C=CC=C2OCC(C)([NH3+])C | InChI=1S/C11H16N4O3S.ClH/c1-11(2,13)6-18-8-5-3-4-7-9(8)10(12)15-19(16,17)14-7;/h3-5,14H,6,13H2,1-2H3,(H2,12,15);1H
